US07420091B2
Preparation of 3-(2-hydroxy-5-methyl-phenyl)-N,N-diisopropyl-3-phenyl-propionamide (IV) [from (III) wherein X is CO and R is N(isopropyl)2]
A three-necked round-bottom flask equipped with condenser, mechanical stirrer, thermometer, is loaded with N,N-diisopropyl-3-phenyl-3-hydroxy-propionamide (1.0 g; 0.0041 mol), p-cresol (0.48 g; 0.0044 mol) and polyphosphoric acid (16.5 g). After five hours under stirring at room temperature the reaction is completed. The reaction mixture is poured in ice/water (10 g), alkalinized to pH 9-10 with NaOH 50% w/w and left under stirring for 30 minutes, then diluted with toluene (30 ml). The phases are separated and the aqueous phase is extracted with toluene (2×30 ml). The combined organic phases are dried over sodium sulfate and evaporated to dryness. The resulting oil is purified by flash chromatography (hexane/ethyl acetate 7:3). 0.48 g of product, as a pale yellow oil, are obtained.

reactant | N,N-diisopropyl-3-phenyl-3-hydroxy-propionamide | 0.0041 mol, 1.0 g | C(C)(C)N(C(CC(O)C1=CC=CC=C1)=O)C(C)C | C15H23NO2
reactant | p-cresol | 0.0044 mol, 0.48 g | C1=CC(=CC=C1O)C | C7H8O
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-hydroxy-5-methyl-phenyl)-N,N-diisopropyl-3-phenyl-propionamide | 0.48 g | OC1=C(C=C(C=C1)C)C(CC(=O)N(C(C)C)C(C)C)C1=CC=CC=C1 | C22H29NO2
